### PR TITLE
feat: add monad-polymorphic sorts

### PR DESCRIPTION
**Pull request by eric-wieser**
These can be used to:
* replace the specialized timeM version (included in this PR)
* implement sorts that log as they sort
* specialize to FreeM or PFunctor.FreeM

The old copyright dates on these files are because they were written by directly copying the corresponding non-monadic code from mathlib / lean core.

As a general pattern, writing code monad generically, then specializing it, allows Lean's compiler to compile it efficiently in `Id`, but also allows it to be reasoned about for richer monads `m`. The alternative of starting with a rich monad like `FreeM` and transporting back to `Id` has two downsides:

* The algorithm itself must live inside CSLib, in order to have access to `FreeM`.
* The compiler must be able to fully optimize out `FreeM.liftM` / `TimeM.ret` to match performance characteristics.

If you have no intent of ever executing the code then these concerns don't matter all that much. For now, the main benefit to CSLib is that we can write the algorithms just once while exploring a zoo of computation models to evaluate them in.

As a bonus, this lets us reuse some proofs about `List.mergeSort`, reducing the length of some proofs.

### CODE REVIEW

File: Cslib/Algorithms/Lean/Sort/Merge.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+    mergeM xs ys (fun x y => (pure (le x y) : m Bool)) = pure (merge xs ys le) := by
+  fun_induction mergeM with grind [merge]
+
+@[simp]
+theorem idRun_mergeM (xs ys : List α) (le : α → α → Id Bool) :
+    Id.run (mergeM xs ys le) = merge xs ys (fun x y => Id.run <| le x y) :=
+  mergeM_pure _ _ _
+
+set_option linter.unusedVariables false in
+/-- A monadic version of `List.mergeSortM` -/
```
Comment (fmontesi) [inline Cslib/Algorithms/Lean/Sort/Merge.lean:60]:
```suggestion
/-- A monadic version of `List.mergeSort` -/
```

File: Cslib/Algorithms/Lean/Sort/Merge.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+import Cslib.Init
+
+/-!
+# A Monadic version of the builtin `List.mergeSort`
+
+This can be instantiated with `Id` to recover the original, or with `TimeM` or `FreeM` for
+algorithmic analysis.
+-/
+
+public section
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Merge.lean:19]: I think if you put `@[expose]` here you can avoid an `import all` in the later file. Not sure it's an improvement.

File: Cslib/Algorithms/Lean/Sort/Merge.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+  | case3  a b xs le lr _ _ ih1 ih2 =>
+    simp only [mergeSortM]
+    rw [ih1, ih2]
+    simp
+
+@[simp]
+theorem idRun_mergeSortM (xs : List α) (le : α → α → Id Bool) :
+    Id.run (mergeSortM xs le) = mergeSort xs (fun x y => Id.run <| le x y) :=
+  mergeSortM_pure _ _
+
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Merge.lean:90]: Maybe

```
@[simp] theorem cons_mergeM_cons (x y : α) (xs ys : List α) (le : α → α → m Bool) :
    mergeM (x :: xs) (y :: ys) le = do
      if ← le x y then return x :: (← mergeM xs (y :: ys) le)
      else return y :: (← mergeM (x :: xs) ys le) := by
  simp [mergeM]

@[simp] theorem mergeSortM_nil (le : α → α → m Bool) : mergeSortM [] le = pure [] := by
  simp [mergeSortM]
@[simp] theorem mergeSortM_singleton (a : α) (le : α → α → m Bool) :
    mergeSortM [a] le = pure [a] := by
  simp [mergeSortM]
```

too?

File: Cslib/Algorithms/Lean/Sort/Insertion.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+@[simp]
+theorem insertionSortM_pure [LawfulMonad m] (xs : List α) (r : α → α → Bool) :
+    insertionSortM (fun x y => (pure (r x y) : m Bool)) xs = pure (insertionSort (r · ·) xs) := by
+  fun_induction insertionSortM with simp_all
+
+@[simp]
+theorem idRun_insertionSortM (xs : List α) (r : α → α → Id Bool) :
+    Id.run (insertionSortM r xs) = insertionSort (fun x y => Id.run <| r x y) xs :=
+  insertionSortM_pure _ _
+
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Insertion.lean:68]: Maybe

```
@[simp] theorem orderedInsertM_nil (a : α) : orderedInsertM r a [] = pure [a] := rfl
@[simp] theorem orderedInsertM_cons (a b : α) (l : List α) :
    orderedInsertM r a (b :: l) = do
      if ← r a b then return a :: b :: l else return b :: (← orderedInsertM r a l) := rfl
@[simp] theorem insertionSortM_nil : insertionSortM r [] = pure [] := rfl
@[simp] theorem insertionSortM_cons (b : α) (l : List α) :
    insertionSortM r (b :: l) = (do orderedInsertM r b (← insertionSortM r l)) := rfl
```
too?

File: Cslib/Algorithms/Lean/Sort/Merge.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+      return y :: (← mergeM (x :: xs) ys le)
+
+@[simp] theorem nil_mergeM (ys : List α) (le : α → α → m Bool) : mergeM [] ys le = pure ys := by
+  simp [mergeM]
+@[simp] theorem mergeM_right (xs : List α) (le : α → α → m Bool) : mergeM xs [] le = pure xs := by
+  induction xs with
+  | nil => simp
+  | cons x xs ih => simp [mergeM]
+
+@[simp]
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Merge.lean]:
```suggestion
@[simp↓]
```
so this can fire in a concrete monad before the `pure` is simplified (e.g. into `some`), similarly the other `_pure` lemmas. Not sure it's the best solution, but e.g. for now 

```
example (xs ys : List α) (r : α → α → Bool) :
    List.mergeM (m := Option) xs ys (fun a b => pure (r a b)) = pure (List.merge xs ys r) := by
  simp   -- fails: goal becomes `xs.mergeM ys fun a b => some (r a b)`
```

File: Cslib/Algorithms/Lean/Sort/Merge.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+/-- A monadic version of `List.mergeSort` -/
+def mergeSortM : ∀ (xs : List α) (le : α → α → m Bool), m (List α)
+  | [], _ => return []
+  | [a], _ => return [a]
+  | a :: b :: xs, le => do
+    let lr := MergeSort.Internal.splitInTwo ⟨a :: b :: xs, rfl⟩
+    have := by simpa using lr.2.2
+    have := by simpa using lr.1.2
+    mergeM (← mergeSortM lr.1 le) (← mergeSortM lr.2 le) le
+termination_by xs => xs.length
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Merge.lean]:
```suggestion
/-- A monadic version of `List.mergeSort` -/
def mergeSortM (xs : List α) (le : α → α → m Bool) : m (List α) :=
  match xs with
  | [] => return []
  | [a] => return [a]
  | a :: b :: xs => do
    let lr := MergeSort.Internal.splitInTwo ⟨a :: b :: xs, rfl⟩
    have := lr.2.2
    have := lr.1.2
    mergeM (← mergeSortM lr.1 le) (← mergeSortM lr.2 le) le
termination_by xs.length
```

Comment (kim-em) [reply Cslib/Algorithms/Lean/Sort/Merge.lean]: and then later `fun_induction` works nicely without a generalize:

```
theorem mergeSort_time_le (xs : List α) :
    (mergeSort xs).time ≤ timeMergeSortRec xs.length := by
  unfold mergeSort
  fun_induction List.mergeSortM with
  | case1 | case2 => grind
  | case3 _ _ _ _ _ ih2 ih1 =>
    simp only [time_bind]
    grw [merge_time]
    simp only [mergeSort_same_length]
    unfold timeMergeSortRec
    grind
```

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean [hunk 7]
```diff
@@ -31,42 +33,45 @@ set_option autoImplicit false
...
+open List in
+/-- `TimeM.ret` passes through `List.mergeSortM` into the comparator. -/
+@[simp]
+theorem ret_mergeSortM {T} [AddMonoid T] (xs : List α) (le : α → α → TimeM T Bool) :
+    ⟪List.mergeSortM xs le⟫ = List.mergeSort xs (fun x y => ⟪le x y⟫) := by
+  fun_induction List.mergeSortM with
+  | case1 | case2 => simp
+  | case3 a b xs le _ _ _ iha ihb =>
+    simp only [ret_bind, ret_mergeM, mergeSort]
+    rw [iha, ihb]
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:54]: These could be proved in terms of a 

```lean
variable {n} [Monad n]

theorem mergeM_hom (φ : {β : Type} → m β → n β)
    (hpure : ∀ {β} (b : β), φ (pure b) = pure b)
    (hbind : ∀ {β γ} (x : m β) (f : β → m γ), φ (x >>= f) = φ x >>= fun b => φ (f b))
    (xs ys : List α) (le : α → α → m Bool) :
    φ (mergeM xs ys le) = mergeM xs ys (fun x y => φ (le x y)) := by
  fun_induction mergeM xs ys le with
  | case1 | case2 => simp [hpure]
  | case3 x xs y ys ih1 ih2 =>
    simp only [mergeM, hbind]
    congr 1; funext b
    split <;> simp only [map_eq_pure_bind, hbind, hpure, ih1, ih2]

theorem mergeSortM_hom (φ : {β : Type} → m β → n β)
    (hpure : ∀ {β} (b : β), φ (pure b) = pure b)
    (hbind : ∀ {β γ} (x : m β) (f : β → m γ), φ (x >>= f) = φ x >>= fun b => φ (f b))
    (xs : List α) (le : α → α → m Bool) :
    φ (mergeSortM xs le) = mergeSortM xs (fun x y => φ (le x y)) := by
  fun_induction mergeSortM xs le with
  | case1 | case2 => simp [mergeSortM, hpure]
  | case3 a b xs le lr _ _ ih1 ih2 =>
    simp only [mergeSortM, hbind, ih1, ih2, mergeM_hom φ hpure hbind]
    rfl
```

and similarly for insertion sort. Not sure it is worth it.

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean [hunk 8]
```diff
@@ -87,24 +92,16 @@ theorem sorted_merge {l1 l2 : List α} (hxs : IsSorted l1) (hys : IsSorted l2) :
...
-    rcases x with _ | ⟨a, _ | ⟨b, rest⟩⟩ <;> grind
-  | case2 _ _ _ _ _ ih2 ih1 => exact sorted_merge ih2 ih1
+  unfold mergeSort
+  simp only [bind_pure_comp, ret_mergeSortM, ret_map]
+  convert List.pairwise_mergeSort ?_ ?_ ?_ <;> grind
 
 lemma merge_perm (l₁ l₂ : List α) : ⟪merge l₁ l₂⟫ ~ l₁ ++ l₂ := by
-  fun_induction merge with grind [List.merge_perm_append]
+  unfold merge
+  fun_induction mergeM with grind [List.merge_perm_append]
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]:
```
theorem mergeSort_sorted (xs : List α) : IsSorted ⟪mergeSort xs⟫ := by
  simpa using List.pairwise_mergeSort' (r := (· ≤ ·)) xs

lemma merge_perm (l₁ l₂ : List α) : ⟪merge l₁ l₂⟫ ~ l₁ ++ l₂ := by
  simpa using List.merge_perm_append (xs := l₁) (ys := l₂) (fun x y : α => decide (x ≤ y))
```
perhaps?

File: Cslib/Algorithms/Lean/Sort/Insertion.lean [hunk 9]
```diff
@@ -0,0 +1,57 @@
...
+Authors: Jeremy Avigad, Eric Wieser
+-/
+module
+
+public import Mathlib.Data.List.Sort
+
+import Cslib.Init
+
+/-!
+# A Monadic version of the builtin `List.insertionSort`
```
Comment (kim-em) [inline Cslib/Algorithms/Lean/Sort/Insertion.lean]:
```suggestion
# A Monadic version of Mathlib's `List.insertionSort`
```

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean (hunk 7 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:54]: This is of course the motivation for #856. Once once lands, I'll add this result to the other.

File: Cslib/Algorithms/Lean/Sort/Insertion.lean (hunk 4 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Insertion.lean:68]: I think the second ones are already covered by `simp` on `insertionSortM`? Should I put `simp` on `insertionSort` too, for the same reason?

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Merge.lean:19]: Yeah, I wasn't sure about this either.

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 3 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Merge.lean:90]: I thought the point of `@[simp] def` on pattern-matching defs was that we could skip writing these. Is that not the case?

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 5 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Merge.lean]: Done, good thought.

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 6 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Merge.lean]: Done, thanks!

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean (hunk 8 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/MergeSort/MergeSort.lean]: Looks like I can drop all the arguments too

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 3 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Sort/Merge.lean:90]: Indeed, as long as it is `@[expose]`'d. I think I (and the AIs!) write out all the simp lemmas out of habit. Somehow often enough you want to tweak the lemma that it still feels worthwhile to me to have them.

In particular `mergeSortM (a :: b :: xs) le` does warrant custom lemmas.

I'm happy either way here, no further comment. :-)

File: Cslib/Algorithms/Lean/Sort/Insertion.lean (hunk 4 above)
Comment (kim-em) [reply Cslib/Algorithms/Lean/Sort/Insertion.lean:68]: As above.

**Review by kim-em — APPROVED** [review]
Looks good to me. Happy if this is merged, however Eric wants to handle the remaining @[simp] lemma questions.

File: Cslib/Algorithms/Lean/Sort/Insertion.lean (hunk 4 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Insertion.lean:68]: Done.

File: Cslib/Algorithms/Lean/Sort/Merge.lean (hunk 3 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Sort/Merge.lean:90]: I've added your suggestions.

> In particular `mergeSortM (a :: b :: xs) le` does warrant custom lemmas.

I assume you are not asking for these? I think probably stating anything interesting requires using `wp` on the comparator, which I intend to declare out of scope for this PR.

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean (hunk 7 above)
Comment (eric-wieser) [reply Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:54]: Let's put these in #856, which will allow me to test the grind annotations.
